US06596772B1
To 1-Methyl-5-Trifluoromethansulfonylamino-1H-Indole-2-Carboxylic Acid (0.21 g, 0.65 mmol) in 8 ml of DMF was added HOBt (96 mg, 0.71 mmol), EDC (145 mg, 0.78 mmol), TEA (131 mg, 1.3 mmol), and aniline (0.65 ml, 72 mmol). The reaction mixture was stirred at room temperature for a day. The reaction was diluted with 200 ml of methylene dichloride and washed with water and brine, then concentrated. The residue was purified by flash column with 50% EtOAc/Hexane to give 0.13 g of 1-Methyl-5-trifluoromethansulfonylamino-1H-indole-2-carboxylic acid phenylamide as a beige solid. 1H-NMR (400 MHz, DMSO-d6) δ 11.61 (s, 1H, SNH), 10.37 (s, 1H, NHCO), 7.78 (d, J=8 Hz, 2H, ArH-o), 7.63 (d, J=9 Hz, 1H, H-7), 7,61 (d, J=2 Hz, 1H, H-4), 7.37 (t, J=8 Hz, 2H, ArH-m), 7.32 (s, 1H, H-3), 7.20 (dd, J=2, 9 Hz, 1H, H-6), 7.12 (t. J=7.4 Hz, 1H. ArH-p).MS m/z 396 (M−H).

reactant | 1-Methyl-5-Trifluoromethansulfonylamino-1H-Indole-2-Carboxylic Acid | 0.65 mmol, 0.21 g | CN1C(=CC2=CC(=CC=C12)NS(=O)(=O)C(F)(F)F)C(=O)O | C11H9F3N2O4S
reactant | HOBt | 0.71 mmol, 96 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.78 mmol, 145 mg
reactant | aniline | 72 mmol, 0.65 ml | NC1=CC=CC=C1 | C6H7N
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | methylene dichloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 1-Methyl-5-trifluoromethansulfonylamino-1H-indole-2-carboxylic acid phenylamide | 0.13 g | C1(=CC=CC=C1)NC(=O)C=1N(C2=CC=C(C=C2C1)NS(=O)(=O)C(F)(F)F)C | C17H14F3N3O3S
